US06696473B2
Preparation of 2-(5-Acetyl-2-hydroxyphenylimino)-3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)thiazolidin-4-one
In a manner similar to Example 30, 4′-hydroxy-3′-nitroacetophenone was hydrogenated and then condensed with 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate to afford the title compound. MS(ESI): 488 (MH+).

reactant | 4′-hydroxy-3′-nitroacetophenone | OC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H7NO4
reactant | 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=CC=C2)SC
product | 2-(5-Acetyl-2-hydroxyphenylimino)-3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)thiazolidin-4-one | C(C)(=O)C=1C=CC(=C(C1)N=C1SC(C(N1CC1=CC=CC=C1)=O)=C1SC2=C(N1C)C=CC=C2)O | C26H21N3O3S2
